US07087594B2
In 40 mL of methylene chloride was dissolved 2.00 g of 3-[2-(1-benzothiophen-5-yl)ethoxy]-1-propanol, and 5.55 g of triphenylphosphine was added to the solution, after which a solution of 8.42 g of carbon tetrabromide in 10 mL of methylene chloride was added dropwise thereto under ice-cooling and the resulting mixture was stirred at room temperature for 20 minutes. To the reaction mixture was added 20 mL of water, and the organic layer was separated. The organic layer was washed with a saturated aqueous sodium hydrogencarbonate solution and then a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. Diethyl ether was added to the residue and the insoluble materials were filtered off, after which the solvent was distilled off under reduced pressure. The residue was purified by a column chromatography (eluent; hexane:ethyl acetate=20:1 to 10:1) to obtain 1.93 g of 5-[2-(3-bromopropoxy)ethyl]-1-benzothiophene as a colorless oil.

reactant | 3-[2-(1-benzothiophen-5-yl)ethoxy]-1-propanol | 2.00 g | S1C=CC2=C1C=CC(=C2)CCOCCCO | C13H16O2S
reactant | triphenylphosphine | 5.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 8.42 g | C(Br)(Br)(Br)Br | CBr4
reactant | water | 20 mL | O | H2O
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-[2-(3-bromopropoxy)ethyl]-1-benzothiophene | 1.93 g | BrCCCOCCC=1C=CC2=C(C=CS2)C1 | C13H15BrOS
